US05550240
Preparation of 4-chloro-6-(2,2-dimethylpropylamino)-2-pyrrolidinopyrimidine
The reaction of 2,4-dichloro-6-(2,2-dimethylpropylamino)pyrimidine with pyrrolidine as described in Example 12 affords the title compound in a yield of 75.0%, m.p.: 130°-135° C.

reactant | 2,4-dichloro-6-(2,2-dimethylpropylamino)pyrimidine | ClC1=NC(=CC(=N1)Cl)NCC(C)(C)C | C9H13Cl2N3
reactant | pyrrolidine | N1CCCC1 | C4H9N
product | 4-chloro-6-(2,2-dimethylpropylamino)-2-pyrrolidinopyrimidine | yield of 75.0% | ClC1=NC(=NC(=C1)NCC(C)(C)C)N1CCCC1 | C13H21ClN4
